US07749992B2
A mixture of 2-(Toluene-4-sulfonylamino)-benzoic acid methyl ester (1000 g, 3.27 mol), ethyl 4-bromobutyrate (639 g, 3.45 mol) in 2-butanone (5.6 L) was heated at reflux for 24 hours. After the reaction was completed, the mixture was poured into ice-water, and the resultant precipitates were collected by filtration. The filtrates were washed with ethyl acetate to give 2-[(3-Ethoxycarbonyl-propyl)-(toluene-4-sulfonyl)-amino]-benzoic acid methyl ester (890 g, 65%).

reactant | 2-(Toluene-4-sulfonylamino)-benzoic acid methyl ester | 3.27 mol, 1000 g | COC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C15H15NO4S
reactant | ethyl 4-bromobutyrate | 3.45 mol, 639 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | 2-butanone | 5.6 L | CC(CC)=O | C4H8O
product | 2-[(3-Ethoxycarbonyl-propyl)-(toluene-4-sulfonyl)-amino]-benzoic acid methyl ester | 890 g, 65% | COC(C1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=O)OCC)=O | C21H25NO6S
